US04775675
3-Acetyl-5,5-dimethyl-2(S)-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid
5.6 ml of acetic anhydride are added to a hot suspension containing 2.51 g (10 mmoles) of 5,5-dimethyl-2-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid in 5.6 ml of water, then the mixture is heated at 100° C. for 5 minutes. On cooling, crystals are precipitated which are recrystallized from isopropanol to give the title compound in a yield of 2.15 g (73.3%), m.p.: 214°218° C., [α]D19 =-101° (c=0.71, methanol).

reactant | acetic anhydride | 5.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5,5-dimethyl-2-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid | 10 mmoles, 2.51 g | CC1([C@@H](NC(S1)C1=CC=C(C=C1)C)C(=O)O)C | C13H17NO2S
solvent | water | 5.6 ml | O | H2O
product | 3-Acetyl-5,5-dimethyl-2(S)-(4-methylphenyl)-thiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=C(C=C1)C | C15H19NO3S
